US07842685B2
3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine (140 mg, 0.387 mmol) was dissolved in THF (3.9 mL) and N-ethyl-N-isopropylpropan-2-amine (270 μl, 1.55 mmol) before methyl 4-chloro-4-oxobutanoate (189 μl, 1.55 mmol) was added at ambient temperature and the reaction mixture was stirred at ambient temperature for 30 min. The reaction mixture was diluted with 100 mL of DCM, added to a separatory funnel, partitioned with water, washed 2 times with 50 mL of sodium bicarbonate (saturated, aqueous), separated, dried over sodium sulfate, and concentrated via rotovap to give methyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)-4-oxobutanoate after flash chromatography. MS (ESI) m/z: Calculated: 475.1; Observed: 476.4 (M++1).

reactant | 3-Fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzenamine | 0.387 mmol, 140 mg | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)N | C21H16FN3S
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.55 mmol, 270 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl 4-chloro-4-oxobutanoate | 1.55 mmol, 189 μl | ClC(CCC(=O)OC)=O | C5H7ClO3
solvent | THF | 3.9 mL | C1CCOC1 | C4H8O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenylamino)-4-oxobutanoate | FC=1C=C(C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)NC(CCC(=O)OC)=O | C26H22FN3O3S
